US09079985B2
2-Isobutylacrylic acid
To a solution of 72.9 g (0.455 mol) of isobutylmalonic acid in 650 ml of ethyl acetate 54.2 ml (38.3 g, 0.524 mol) of diethylamine was added dropwise at 5° C. To the obtained suspension 19.2 g (0.640 mol) of paraform was added. The resulting mixture was refluxed for 5 h, then cooled to 5° C., and 350 ml of ether and 1000 cm3 of 2M HCl were added. After mixing the organic layer was separated, the aqueous layer was additionally extracted with 2×500 ml of ether. The combined organic extract was dried over Na2SO4 and then evaporated to dryness. Rectification of the residue in vacuum gave the title product, bp 75-77° C./6 mm Hg. Yield 51.5 g (88%) of colorless liquid.

reactant | isobutylmalonic acid | 0.455 mol, 72.9 g | C(C(C)C)C(C(=O)O)C(=O)O | C7H12O4
reactant | ethyl acetate | 0.524 mol, 650 ml, 38.3 g | C(C)(=O)OCC | C4H8O2
reactant | diethylamine | C(C)NCC | C4H11N
reactant | HCl | 2M, 1000 cm3 | Cl | ClH
solvent | ether | 350 ml | CCOCC | C4H10O
product | 2-Isobutylacrylic acid | C(C(C)C)C(C(=O)O)=C | C7H12O2
